US04363766
A mixture of 0.1 mol of anthranil aldehyde, 0.1 mol of methionine and a solution of 0.1 mol of sodium carbonate in 50 ml of water was stirred for a few hours. After everything had gone into solution, 0.1 mol of sodium borohydride was added, and the mixture was stirred at room temperature for 12 hours. The reaction solution was then acidified to pH3, and the precipitate was collected and dried, yielding 85% of theory of N-(2-amino-benzyl)-methionine, m.p. 198° C. The total yield, based on the anthranilic acid starting material, was 68% of theory.

reactant | anthranil aldehyde | 0.1 mol | C(C=1C(N)=CC=CC1)=O | C7H7NO
reactant | methionine | 0.1 mol | N[C@@H](CCSC)C(=O)O | C5H11NO2S
reactant | sodium carbonate | 0.1 mol | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium borohydride | 0.1 mol | [BH4-].[Na+]
solvent | water | 50 ml | O | H2O
product | N-(2-amino-benzyl)-methionine | NC1=C(CN[C@@H](CCSC)C(=O)O)C=CC=C1 | C12H18N2O2S
